US05807886
(a) 7-Nitro-1-((phenylmethyl)amino)-1,2,3,4-tetrahydronaphthalene
7-Nitro-1-tetralone (2.0 g, 10.5 mmol), benzylamine (1.2 ml, 10.5 mmol) and titanium isopropoxide (3.9 ml, 13.1 mmol) were combined and stirred for 1 hr. The mixture was diluted with absolute ethanol (12 ml), treated with sodium cyanoborohydride (0.44 g, 7.0 mmol) and allowed to stir for 20 hr. The solids were filtered and washed with ethanol. The ethanol was concentrated and the remaining oil used immediately in the next reaction: M.S. (M+H)+ =283.

reactant | 7-Nitro-1-tetralone | 10.5 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | benzylamine | 10.5 mmol, 1.2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 7.0 mmol, 0.44 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | titanium isopropoxide | 13.1 mmol, 3.9 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 7-Nitro-1-((phenylmethyl)amino)-1,2,3,4-tetrahydronaphthalene | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)NCC1=CC=CC=C1 | C17H18N2O2
